US07470723B2
A stirred mixture of 6-bromo-2,3-dihydro-benzo[1,4]dioxine (1.66 g, 7.7 mmol) and dry THF (20 mL) was cooled to −78° C., evacuated and refilled with nitrogen for 10 cycles. To this clear solution was slowly added n-butyllithium (2.9 mL, 7.4 mmol) and stirred for 20 min. Then a mixture of 4-methoxy-benzaldehyde (0.90 g, 6.6 mmol) in dry THF (10 mL) was added and stirred for 1 hour at −78° C. The mixture was quenched with isopropanol (3.4 mL, 44 mmol) and added water (10 mL). The mixture was extracted with EtOAc (3×30 mL). The combined organic phases were washed with water (2×30 mL), dried over MgSO4 and concentrated to give (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(4-methoxy-phenyl)-methanol as an oil (2.04 g, 102% crude yield). The product was used in the next step without further purification.

reactant | 6-bromo-2,3-dihydro-benzo[1,4]dioxine | 7.7 mmol, 1.66 g | BrC1=CC2=C(OCCO2)C=C1 | C8H7BrO2
reactant | n-butyllithium | 7.4 mmol, 2.9 mL | C(CCC)[Li]
reactant | 4-methoxy-benzaldehyde | 6.6 mmol, 0.90 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | isopropanol | 44 mmol, 3.4 mL | C(C)(C)O | C3H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(4-methoxy-phenyl)-methanol | O1CCOC2=C1C=CC(=C2)C(O)C2=CC=C(C=C2)OC | C16H16O4
